US07855209B2
To a solution of (2-amino-4,5-dimethylthiophen-3-yl)(4-chlorophenyl)methanone (532 mg, 2 mmol; prepared as described in U.S. Pat. No. 6,323,214) in acetic acid (15 mL) is added phthalic anhydride (360 mg, 2.4 mmol) and the mixture is heated to reflux for 15 h. The solvent is evaporated in vacuo and the residual material is dissolved in ethyl acetate (20 mL). The organic solution is washed with a saturated aqueous solution of NaHCO3 (5 mL), water (5 mL), then brine (5 mL), dried (Na2SO4), filtered, and concentrated in vacuo. The crude product is stirred for 1 h in petroleum ether (20 mL), then filtered, affording (2-[3-(4-chlorobenzoyl)-4,5-dimethylthiophen-2-yl]isoindoline-1,3-dione as a yellow powder. 1H NMR (CDCl3) δ: 2.10 (s, 3H), 2.43 (s, 3H), 7.24 (d, J=8.4 Hz, 2H), 7.64 (d, J=8.4 Hz, 2H), 7.78 (m, 4H).

reactant | (2-amino-4,5-dimethylthiophen-3-yl)(4-chlorophenyl)methanone | NC=1SC(=C(C1C(=O)C1=CC=C(C=C1)Cl)C)C | C13H12ClNOS
reactant | phthalic anhydride | 2.4 mmol, 360 mg | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 2-[3-(4-chlorobenzoyl)-4,5-dimethylthiophen-2-yl]isoindoline-1,3-dione | ClC1=CC=C(C(=O)C2=C(SC(=C2C)C)N2C(C3=CC=CC=C3C2=O)=O)C=C1 | C21H14ClNO3S
